US09120788B2
Step 2. Synthesis of 4-[2-(azetidin-1-ylcarbonyl)-3H-imidazo[4,5-b]pyridin-3-yl]-2-fluorobenzonitrile (8)
A mixture of azetidine hydrochloride (120 mg, 1.3 mmol) and N,N-diisopropylethylamine (168 mg, 1.30 mmol) in methanol (2 mL) was stirred at room temperature for 1 hour. At this point, ethyl 3-(4-cyano-3-fluorophenyl)-3H-imidazo[4,5-b]pyridine-2-carboxylate (C16) (40 mg, 0.13 mmol) and calcium chloride (15 mg, 0.13 mmol) were added, and the reaction mixture was stirred at room temperature for an additional 2 hours. After removal of solvents in vacuo, the residue was purified by reversed phase HPLC (Column: DIKMA Diamonsil C18(2), 5 μm; Mobile phase A: 0.225% formic acid in water; Mobile phase B: 0.225% formic acid in acetonitrile; Gradient: 15% to 45% B) to provide the product as a yellow solid. Yield: 4.0 mg, 12 μmol, 9%. LCMS m/z 322.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.49 (dd, J=4.8, 1.3 Hz, 1H), 8.20 (dd, J=8.2, 1.4 Hz, 1H), 7.77-7.82 (m, 1H), 7.36-7.43 (m, 3H), 4.80-4.89 (m, 2H), 4.18-4.26 (m, 2H), 2.39-2.50 (m, 2H).

reactant | azetidine hydrochloride | 1.3 mmol, 120 mg | Cl.N1CCC1
reactant | N,N-diisopropylethylamine | 1.30 mmol, 168 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl 3-(4-cyano-3-fluorophenyl)-3H-imidazo[4,5-b]pyridine-2-carboxylate | 0.13 mmol, 40 mg | C(#N)C1=C(C=C(C=C1)N1C(=NC=2C1=NC=CC2)C(=O)OCC)F | C16H11FN4O2
reactant | calcium chloride | 0.13 mmol, 15 mg | [Cl-].[Ca+2].[Cl-]
solvent | methanol | 2 mL | CO | CH4O
product | 4-[2-(azetidin-1-ylcarbonyl)-3H-imidazo[4,5-b]pyridin-3-yl]-2-fluorobenzonitrile | N1(CCC1)C(=O)C1=NC=2C(=NC=CC2)N1C1=CC(=C(C#N)C=C1)F | C17H12FN5O
